US07547696B2
b,) 2-Amino-3-cyano-4-hydroxy-6-nitroquinoline
To the solution of 47.25 g of 5-nitroisatoic anhydride in 230 mL of DMF 15 g of malonitrile and 63.3 mL of triethylamine were added and the reaction mixture was stirred at 60° C. for 2 hours. The solvent was evaporated at reduced pressure and the residue was mixed with 570 mL of acetonitrile and 114 mL of concd. HCl and the solution was stirred at room temperature overnight. The precipitate was then filtered off, washed with water and ethanol to give 49.7 g of product, m.p.: >360° C. LC-MS: MH+ 231; Ret. time: 4.78 min.

reactant | 5-nitroisatoic anhydride | 47.25 g | [N+](=O)([O-])C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4N2O5
reactant | malonitrile | C(C(O)CC#N)#N | C4H4N2O
reactant | triethylamine | 63.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 230 mL, 15 g | CN(C)C=O | C3H7NO
product | 2-Amino-3-cyano-4-hydroxy-6-nitroquinoline | 49.7 g | NC1=NC2=CC=C(C=C2C(=C1C#N)O)[N+](=O)[O-] | C10H6N4O3
